US08735620B2
Preparation of 4-Fluoro-2,6-dimethoxybenzaldehyde:
Phosphorous oxychloride (1.8 mL, 19.3 mmol) was added slowly to a well-stirred mixture of 1-fluoro-3,5-dimethoxy benzene (2.6 mL, 19.25 mmol) and N,N-dimethylformamide (2.5 mL, 20 mmol) while temperature was kept below −5° C. Stirring was continued at room temperature for 1.5 h and at 60° C. for another 2 h. Reaction completion was monitored by TLC. The reaction mixture was cooled and hydrolyzed with ice-water (60 mL). The resulting suspension was neutralized by addition of 5N NaOH, extracted with ethyl acetate (2×30 mL), the aqueous phase was adjusted to pH 10 by 5N NaOH and re-extracted with ethyl acetate (2×30 mL). The combined organic phases were washed with saturated aqueous NaHCO3 solution (30 mL) and brine (30 mL) and dried over anhydrous sodium sulfate. The dried solution was concentrated to get the crude product which on purification by column chromatography afforded a colorless pure product. Yield: 75%; white solid mp 79-81° C. 1H NMR: δ 3.85 (s, 3H, OCH3), 3.89 (s, 3H, OCH3), 6.25 (S, 2H, Ar—H), 10.24 (s, 1H, CHO). Anal. Calcd for C18H19FO5S: C, 58.70, H, 4.92. Found: C, 58.64, H, 4.91.

reactant | Phosphorous oxychloride | 19.3 mmol, 1.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-fluoro-3,5-dimethoxy benzene | 19.25 mmol, 2.6 mL | FC1=CC(=CC(=C1)OC)OC | C8H9FO2
reactant | N,N-dimethylformamide | 20 mmol, 2.5 mL | CN(C=O)C | C3H7NO
reactant | NaOH | 5N | [OH-].[Na+]
product | 4-Fluoro-2,6-dimethoxybenzaldehyde | Yield: 75% | FC1=CC(=C(C=O)C(=C1)OC)OC | C9H9FO3
